US06699818B1
Sodium hydride (8.0 g of a 75% dispersion in oil) is suspended at +5° C. in a mixture of DMSO (300 ml) and diethylether (100 ml). A solution of ethyl 4,4, trifluorocrotonate (20 g) and TOSMIC (23 g) in DMSO (100 ml) is added through a dropping funnel at such a rate that the temperature does not exceed 10° C. After stirring the reaction mixture for an additional hour at room temperature methyl iodide (15.8 ml) is added with cooling. After 2 hours at room temperature the reaction mixture is poured onto crushed ice. Repeated extraction with ether, washing of the combined organic phases with brine and evaporation of the solvent under reduced pressure gives a product mixture in form of a light amber oil. The crude product mixture is heated at 60° C. in a mixture of ethanol (100 ml) and sodium hydroxide (50 ml of a 30% aqueous solution). Washing of the solution with ether, acidifying of the aqueous phase with concentrated hydrochloric acid and filtering gives the 1-methyl4-trifluoromethylpyrrole-3-carboxylic acid in form of a crystalline solid. 1H-NMR (CDCl3): 7.24(d, 1H); 6.88(d, 1H); 3.63(s, 3H).

reactant | Sodium hydride | [H-].[Na+]
reactant | trifluorocrotonate | 20 g | FC(/C=C/C(=O)[O-])(F)F
reactant | TOSMIC | 23 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | methyl iodide | 15.8 ml | CI | CH3I
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-methyl4-trifluoromethylpyrrole-3-carboxylic acid | CN1C=C(C(=C1)C(F)(F)F)C(=O)O | C7H6F3NO2
